US08461164B2
To a solution of 2,6-dichloro-4-trifluoromethylpyridine (10 g, 46.3 mmol) in methanol (200 mL) was added 25% NaOH/MeOH (12.5 g, 13.2 mL, 231 mmol), which was then stirred at 50° C. for 2 h and then at room temperature overnight. The reaction mixture was extracted with pentane, and the extract was concentrated in vacuo to afford 2-methoxy-6-chloro-4-trifluoromethylpyridine (9.79 g), used without further purification.

reactant | 2,6-dichloro-4-trifluoromethylpyridine | 46.3 mmol, 10 g | ClC1=NC(=CC(=C1)C(F)(F)F)Cl | C6H2Cl2F3N
reactant | NaOH MeOH | 231 mmol, 13.2 mL, 12.5 g | [OH-].[Na+].CO
solvent | methanol | 200 mL | CO | CH4O
product | 2-methoxy-6-chloro-4-trifluoromethylpyridine | 9.79 g | COC1=NC(=CC(=C1)C(F)(F)F)Cl | C7H5ClF3NO
